US06358948B1
9H-Fluoren-9-ylmethyl 6-(5-cyano-1-methyl-1H-pyrrol-2-yl)-2,4,4-trimethyl-2H-3,1-benzoxazine-1(4H)-carboxylate
A mixture of 9H-fluoren-9-ylmethyl-6-[5-cyano-1H-pyrrol-2-yl]-2,4,4-trimethyl-2H-3,1-benzoxazine-1(4H)-carboxylate (0.4 g, 0.8 mmol) and potassium carbonate (1.5 g) in anhydrous DMF was treated at ambient temperature under a blanket of nitrogen with iodomethane (1.5 mL, excess). The mixture was stirred for 30 minutes. A saturated ammonium sulfate solution (50 mL) and ethyl acetate (50 mL) was added. The organic layer was separated and aqueous layer was extracted with ethyl acetate (3×15 mL). The combined organic layers were dried (MgSO4), evaporated to yield the title compound as a white solid (0.35 g, 87%): mp 63-64° C.; 1H-NMR (DMSO-d6) δ 7.90 (m, 2H), 7.62 (d, 1H, J=7.7 Hz), 7.58 (d, 1H, J=7.7 Hz), 7.40 (m, 2H), 7.29-7.32 (m, 3H), 7.14 (dd, 1H, J=8.1, 1.9 Hz), 7.01-7.04 (m, 2H), 6.33 (d, 1H,J=4.3 Hz), 5.31 (q, 1H, J=5.8 Hz), 4.88 (dd, 1H, J=10.8, 5.0 Hz), 4.65 (dd, 1H, J=10.8, 4.6 Hz), 4.34 (t, 1H, J=4.6 Hz), 3.71 (s, 3H), 1.52 (s, 3H), 1.21 (s, 3H), 1.06 (d, 3H, J=5.4 Hz); MS (ESI) m/z 504 [M+H]+.

reactant | 9H-fluoren-9-ylmethyl-6-[5-cyano-1H-pyrrol-2-yl]-2,4,4-trimethyl-2H-3,1-benzoxazine-1(4H)-carboxylate | 0.8 mmol, 0.4 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1C(OC(C2=C1C=CC(=C2)C=2NC(=CC2)C#N)(C)C)C | C31H27N3O3
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 1.5 mL | IC | CH3I
reactant | ammonium sulfate | 50 mL | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 9H-Fluoren-9-ylmethyl 6-(5-cyano-1-methyl-1H-pyrrol-2-yl)-2,4,4-trimethyl-2H-3,1-benzoxazine-1(4H)-carboxylate | 0.35 g, 87% | C(#N)C1=CC=C(N1C)C=1C=CC2=C(C(OC(N2C(=O)OCC2C3=CC=CC=C3C=3C=CC=CC23)C)(C)C)C1 | C32H29N3O3
